US09428490B2
(Z)-(9H-Fluoren-9-yl)methyl (3-(3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acryloyl)-3-azabicyclo[3.1.0]hexan-6-yl)carbamate (0.3 g, 1.0 eq.) in was dissolved in DMF (0.75 ml). TEA (0.75 ml) was added dropwise and the reaction mixture was stirred at room temperature for 4 h, quenched with water (10 mL) and extracted with ethyl acetate (3×50 mL). The combined organic layers was washed with brine (50 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure (25° C., 20 mmHg) to afford 0.2 g of the crude product, which was purified by chromatography (10% Methanol in DCM) to obtain (Z)-1-(6-amino-3-azabicyclo[3.1.0]hexan-3-yl)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)prop-2-en-1-one (0.1 g; 50% yield). 1H NMR (400 MHz, DMSO) δ=9.10 (s, 1H), 8.49 (s, 2H), 8.30 (s, 1H), 7.30-7.32 (d, J=10 Hz, 1H), 6.07-6.09 (d, J=10 Hz, 1H), 3.65-3.68 (d, 1H), 3.48 (s, 1H), 3.35-3.45 (m, 1H), 3.29-3.30 (d, 1H), 2.28 (s, 1H), 1.48-1.49 (m, 2H), 1.22 (s, 1H); LCMS calcd. for C18H16F6N5O [M+H]+ 432.34. found 432.19 at 2.1 min retention time.

reactant | (Z)-(9H-Fluoren-9-yl)methyl (3-(3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acryloyl)-3-azabicyclo[3.1.0]hexan-6-yl)carbamate | 0.3 g, 1.0 eq. | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)N1CC2C(C2C1)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)(F)F | C33H25F6N5O3
solvent | DMF | 0.75 ml | CN(C)C=O | C3H7NO
product | (Z)-1-(6-amino-3-azabicyclo[3.1.0]hexan-3-yl)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)prop-2-en-1-one | 0.1 g, 50% yield | NC1C2CN(CC12)C(\C=C/N1N=C(N=C1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C18H15F6N5O
